US04564619
2 Grams of 5-(2-hydroxyethoxy)-3,4-dihydrocarbostyril and 2 ml of triethylamine were added to 50 ml of chloroform, then 1 g of diketene was added dropwise thereto, and the whole reaction mixture was stirred at room temperature for 2 days. The insoluble matter formed in the reaction mixture was removed by filtration, and the filtrate was concentrated, then the residue obtained was purified by silica gel column chromatography (eluant: chloroform), the eluate obtained was concentrated and the residue was recrystallized from chloroform-ether to yield 1.5 g of 5-(2-acetoacetoxyethoxy)-3,4-dihydrocarbostyril in the form of colorless needle-like crystals. Melting point: 134.5°-135.5° C.

reactant | 5-(2-hydroxyethoxy)-3,4-dihydrocarbostyril | OCCOC1=C2CCC(NC2=CC=C1)=O | C11H13NO3
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | diketene | 1 g | C=C1CC(=O)O1 | C4H4O2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(2-acetoacetoxyethoxy)-3,4-dihydrocarbostyril | 1.5 g | C(CC(=O)C)(=O)OCCOC1=C2CCC(NC2=CC=C1)=O | C15H17NO5
